US09255090B2
Method C: Synthesis of [3-bromo-4-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester (C12H12O3BrF3, MW=339.99):
1,1,1-Trifluoro-2-iodoethane (0.15 mL, 1.5 mmol, 1 eq.) was added to a solution of (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester (456 mg, 1.5 mmol, 1 eq.) and potassium carbonate (622 mg, 4.5 mmol, 3 eq.) in DMF (1.5 mL). The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. The reaction mixture was diluted with DCM and water. The layers were separated and the aq. phase was extracted with DCM (2×). The comb. org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 50 g, flow: 30 mL/min, 30 fractions of 30 mL, Heptane 100% to Heptane+AcOEt 20%) to yield the title compound as a colorless oil.

reactant | 1,1,1-Trifluoro-2-iodoethane | 1.5 mmol, 0.15 mL, 1 eq. | FC(CI)(F)F | C2H2F3I
reactant | (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester | 1.5 mmol, 456 mg, 1 eq. | C(C)OC(CC1=CC(=C(C=C1)O)Br)=O | C10H11BrO3
reactant | potassium carbonate | 4.5 mmol, 622 mg, 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | [3-bromo-4-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC(F)(F)F)Br)=O | C12H12BrF3O3
